US04304728
Ethyl 6-(4-chlorophenyl)-2,4,6-trioxohexanoate
A solution of 1-(4-chlorophenyl)-1,3-butanedione (0.6 g) and diethyl oxalate (0.83 ml) in 1,2-dimethoxyethane (2 ml) was added to a stirred suspension of sodium hydride (0.44 g, 50% dispersion in mineral oil, washed with petrol 40°-60° C.) in 1,2-dimethoxyethane (5 ml) under nitrogen. The stirred mixture was heated under reflux for 1 hour, cooled and acidified with 2 M hydrochloric acid (10 ml). The brown solid which formed was recrystallised from ethanol-water to give the title product (mp 93°-94° C.).

reactant | 1-(4-chlorophenyl)-1,3-butanedione | 0.6 g | ClC1=CC=C(C=C1)C(CC(C)=O)=O | C10H9ClO2
reactant | diethyl oxalate | 0.83 ml | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | sodium hydride | 0.44 g | [H-].[Na+]
reactant | hydrochloric acid | 2 M, 10 ml | Cl | ClH
solvent | 1,2-dimethoxyethane | 2 ml | COCCOC | C4H10O2
solvent | 1,2-dimethoxyethane | 5 ml | COCCOC | C4H10O2
product | Ethyl 6-(4-chlorophenyl)-2,4,6-trioxohexanoate | ClC1=CC=C(C=C1)C(CC(CC(C(=O)OCC)=O)=O)=O | C14H13ClO5
